US08633186B2
2-(trans-2-Methylcyclopentyloxy)-6-nitrobenzonitrile
Prepared as in Example 111c from 2,6 dinitrobenzonitrile and trans-2-methylcyclopentanol in 65% as a yellow solid. MS 247 (MH+).

reactant | 2,6 dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | trans-2-methylcyclopentanol | C[C@H]1[C@@H](CCC1)O | C6H12O
product | 2-(trans-2-Methylcyclopentyloxy)-6-nitrobenzonitrile | C[C@H]1[C@@H](CCC1)OC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C13H14N2O3
